2197-04-26 07:03:00 Physician Resident Progress Note
Chief Complaint: Shortness of Breath
   24 Hour Events:
   No events overnight.
   S: Pt feels well.  He denies SOB, chest pressure or pain, f/chills.  Pt
   reports baseline diarrhea with 3 BMs/day (loose to formed stool).  No
   nausea/vomiting or abd pain.  Pt is on 3L of O2 at home.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-4-26**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-4-26**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 62 (62 - 84) bpm
   BP: 111/56(69) {100/45(57) - 133/69(80)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.2 kg (admission): 108.7 kg
                  Total In:
                                                                    240 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    950 mL
                                                                    700 mL
   Urine:
                                                                    950 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -710 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Bipap mask  3L
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese,
   Eyes / Conjunctiva: PERRL, No Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR  S1 & S2 normal, No S3, No S4, Distant heart sounds
   Peripheral Vascular: 2+ DP and PT bilat
   Chest: CTAB, no w/r/r
   Abdominal: Soft, Non-tender, Bowel sounds present, No Distended, Obese
   Extremities: no c/c/e
   Skin:  Warm, No Rash: , No Jaundice
   Neurologic:
   Labs / Radiology
   269 K/uL
   13.6 g/dL
   118 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   33 mg/dL
   103 mEq/L
   137 mEq/L
   39.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2197-4-25**]  05:53 PM
                             [**2197-4-26**]  03:50 AM
   WBC
   10.2
   10.7
   Hct
   38.1
   39.2
   Plt
   297
   269
   Cr
   1.4
   1.4
   Glucose
   99
   118
   Other labs: PT / PTT / INR:15.0/30.8/1.3,
   Differential-Neuts:72.9 %, Lymph:18.2 %, Mono:4.4 %, Eos:3.7 %,
   Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A&P:  65M with severe pulmonary hypertension electively admitted to
   initiate Flolan therapy.
   .
   #  Pulmonary Hypertension - admitted for initiation of Flolan. Swan
   ganz placed this am. Had CXR after line placement per Flolan protocol
   which confirmed PA catheter in main PA. Most common side effects with
   flolan are: jaw pain, flushing, diarrhea, rash. The overdose sxs have
   to do with the positive inotropic effects: dyspnea, palpitations. HE
   WILL BE AT HIGHER RISK OF FLASH PULMONARY EDEMA because he has COPD and
   some diastolic dysfunction.  This can be catastrophic and he should be
   followed very closely when flolan is started or dose increased.
   - continue home Tracleer and Sildenafil
   - CBC, PT, INR, BNP, BMP prior to Flolan
   - starting dose of Flolan 2ng/kg/min, uptitrate by 2ng/kg/min every
   hour until he develops either adverse effects from the drug or symptoms
   of overdose
   - Listen to his lungs every 20 min or so when flolan is started and
   when dose is increased.
   - Teaching will be provided by Accredo: 1-[**Telephone/Fax (1) 7349**] or with any
   questions you can call [**First Name8 (NamePattern2) 670**] [**Last Name (NamePattern1) 7350**], RN [**Telephone/Fax (1) 7351**]. She is a
   nurse who works for Accredo on PAH. She is very knowledgeable about
   everything about epoprostenol.
   - He does not need to be on heparin while in house because he is only
   on coumadin for PAH prophylaxis.
   - continue home lasix
   - surgery consult for possible Hickman tomorrow
   .
   #  Hypertension
 Well-controlled currently
   - Continue home regimen of lisinopril and lasix.
   .
   #  Coronary Artery Disease - Known 75% mid LAD stenosis, mild diagonal
   disease 40% proximal circumflex stenosis and a 40-50% PDA stenosis.
   - Continue ASA
   - Tricor non-formulary
   .
   #  Diabetes Mellitus - on metformin at home
   - insulin sliding scale while in-house
   .
   #  Obstructive Sleep Apnea - Has home CPAP machine with him
   - continue home settings
   .
   #  COPD - On home O2, 3L at rest, 4L with exertion
   .
   #  GERD - Continue PPI.
   .
   #  FEN
 start diabetic diet, repletes lytes prn
   .
   #  Proph - SC Heparin, bowel regimen prn, continue PPI
   .
   #  Access - PIV, awaiting central line placement in am
   .
   #  Code Status - Full Code
   .
   #  Contact - [**Last Name (LF) **], [**First Name3 (LF) 6273**], [**Telephone/Fax (1) 7352**] (cell), [**Telephone/Fax (1) 7353**] (home)
   ------ Protected Section ------
   I have reviewed the above progress note on [**2197-4-26**] by [**Doctor Last Name 7163**].  The
   physical examination is consistent with my own examination today.  I
   concur with the assessment and treatment plan as outline above.   We
   are awaiting initiation of the Flolan infustion and have placed his
   pulmonary artery catheter placement.  This plan was communicated with
   the patient and his daughter and all questions were addressed   [**First Name4 (NamePattern1) 1914**]
   [**Last Name (NamePattern1) 7145**], MD   [**Telephone/Fax (1) 7286**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2197-4-26**] 14:38 ------

2197-04-27 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PA CATHETER PLACED- START [**2197-4-26**] 08:59 AM
   -records faxed to insurance company but didn't receive approval for
   flolan yet (pulm team aware, spoke w/ pt and daughter)
   -pt's daughter requests that she be present prior to starting med
   S: Pt feels well.  No complaints this am.  Denies CP, SOB, f/chills.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-4-26**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-4-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 71 (63 - 84) bpm
   BP: 124/67(93) {95/51(65) - 128/81(93)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.2 kg (admission): 108.7 kg
    CVP: 6 (2 - 14)mmHg
   PAP: (54 mmHg) / (32 mmHg)
   PCWP: 12 (12 - 12) mmHg
   Total In:
                                                                    840 mL
   PO:
                                                                    840 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    975 mL
   Urine:
                                                                  1,800 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -960 mL
                                                                   -975 mL
   Respiratory support
   SpO2: 98%  AUTO CPAP
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese,
   Eyes / Conjunctiva: PERRL, No Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR  S1 & S2 normal, No S3, No S4, Distant heart sounds
   Peripheral Vascular: 2+ DP and PT bilat
   Chest: CTAB, no w/r/r
   Abdominal: Soft, Non-tender, Bowel sounds present, No Distended, Obese
   Extremities: no c/c/e
   Skin:  Warm, No Rash: , No Jaundice
   Labs / Radiology CBC from [**2197-4-27**], lytes from [**2197-4-26**]
   266K/uL
   13.4g/dL
   118 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   33 mg/dL
   103 mEq/L
   137 mEq/L
   38.3
   11.5 K/uL
        [image002.jpg]
                             [**2197-4-25**]  05:53 PM
                             [**2197-4-26**]  03:50 AM
   WBC
   10.2
   10.7
   Hct
   38.1
   39.2
   Plt
   297
   269
   Cr
   1.4
   1.4
   Glucose
   99
   118
   Other labs: PT / PTT / INR:15.0/30.8/1.3,
   Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   CXR [**2197-4-26**]
   FINDINGS: In comparison with the study of [**3-23**], there has been placement
   of a
   right IJ Swan-Ganz catheter that extends well into the right pulmonary
   artery
   system beyond the confines of the mediastinum. No evidence of
   pneumothorax.
   No acute focal pneumonia.
   Assessment and Plan
   A&P:  65M with severe pulmonary hypertension electively admitted to
   initiate Flolan therapy.
   .
   #  Pulmonary Hypertension - admitted for initiation of Flolan. Swan
   ganz placed yesterday.  Still awaiting insurance approval for Flolan.
   Had CXR after line placement per Flolan protocol which confirmed PA
   catheter in main PA. Most common side effects with flolan are: jaw
   pain, flushing, diarrhea, rash. The overdose sxs have to do with the
   positive inotropic effects: dyspnea, palpitations. HE WILL BE AT HIGHER
   RISK OF FLASH PULMONARY EDEMA because he has COPD and some diastolic
   dysfunction.  This can be catastrophic and he should be followed very
   closely when flolan is started or dose increased.
   - continue home Tracleer and Sildenafil
   - starting dose of Flolan 2ng/kg/min, uptitrate by 2ng/kg/min every
   hour until he develops either adverse effects from the drug or symptoms
   of overdose
   - Listen to his lungs every 20 min or so when flolan is started and
   when dose is increased.
   - Teaching will be provided by Accredo: 1-[**Telephone/Fax (1) 7349**] or with any
   questions you can call [**First Name8 (NamePattern2) 670**] [**Last Name (NamePattern1) 7350**], RN [**Telephone/Fax (1) 7351**]. She is a
   nurse who works for Accredo on PAH. She is very knowledgeable about
   everything about epoprostenol.
   - He does not need to be on heparin while in house because he is only
   on coumadin for PAH prophylaxis.
   - continue home lasix
   - surgery consult for possible Hickman after flolan is initiated.
   [**First Name4 (NamePattern1) 4731**] [**Last Name (NamePattern1) 916**] aware
   .
   #  Hypertension
 Well-controlled currently
   - Continue home regimen of lisinopril and lasix.
   .
   #  Coronary Artery Disease - Known 75% mid LAD stenosis, mild diagonal
   disease 40% proximal circumflex stenosis and a 40-50% PDA stenosis.
   - Continue ASA
   - Tricor non-formulary
   .
   #  Diabetes Mellitus - on metformin at home
   - insulin sliding scale while in-house
   .
   #  Obstructive Sleep Apnea - Has home CPAP machine with him
   - continue home settings
   .
   #  COPD - On home O2, 3L at rest, 4L with exertion.  Cont inhalers
   .
   #  GERD - Continue PPI.
   .
   #  FEN
 start diabetic diet, repletes lytes prn
   .
   #  Proph - SC Heparin, bowel regimen prn, continue PPI
   .
   #  Access - PIV, swan ganz
   .
   #  Code Status - Full Code
   .
   #  Contact - [**Last Name (LF) **], [**First Name3 (LF) 6273**], [**Telephone/Fax (1) 7352**] (cell), [**Telephone/Fax (1) 7353**] (home)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-4-25**] 05:56 PM
   PA Catheter - [**2197-4-26**] 08:59 AM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: cont ppi
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have reviewed the above progress note on [**2197-4-27**] by [**Doctor Last Name 7163**].  The
   history and physical examination are consistent with my own examination
   today.  I concur with the assessment and treatment plan as outline
   above.   We now initiating the Flolan infusion and have monitoring his
   pulmonary artery and PWCP pressures with the infusion.  Dr. [**First Name4 (NamePattern1) 457**] [**Last Name (NamePattern1) **]
   has reviewed the indications and precautions with Flolan with the CCU
   team.  We will titrate to symptoms as tolerated.  [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**], MD
   [**Telephone/Fax (1) 7286**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2197-4-27**] 14:28 ------

2197-04-28 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Flolan approved, initiated @ 1330
   -spoke with [**First Name4 (NamePattern1) 4731**] [**Last Name (NamePattern1) 916**] who will arrange for likely tunnelled line
   placement tomorrow afternoon. Will need to remove Swan for line
   placement and downsize catheter which has slightly higher bleeding
   risks. Coags and platelets in am
   -Needs Accredo teaching iprior to discharge. [**First Name8 (NamePattern2) 8**] [**Last Name (NamePattern1) 1936**] will help
   with this
   -6:30 pm, pt desatted to high 80'. Required 3-->6L O2. Was on Flolan
   6ng/kg/min at that time. Rewedged and PCWP was 12 so gave 20mg IV
   lasix. decreased flolan to 4ng/kg/min.
   -Slowly uptitrated Flolan overnight to 6ng/kg/min
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions: Epoprostenol Sodium 6ng/kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-4-27**] 12:00 PM
   Other medications: Zofran 4mg IV q8h prn, ASA 81mg PO daily, Percocet
   1-2tabs PO q6h prn, Tylenol 325-650mg PO q6h prn, fluticasone nasal
   spray daily, colace 100mg PO BID prn, senna 1 tab PO BID prn, insulin
   sliding scale, sildenafil citrate 50mg PO TID, pyridoxine 100mg PO
   daily, Bupropion 150mg PO qam, Lisinopril 10mg PO qhs. Pantoprazole
   40mg PO q24h, Celexa 20mg PO daily, fluticasone propionate 110mcg 2puff
   IH [**Hospital1 7**]< Tracleer 62.5mg PO BID,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Had episode of nausea, headache that woke him from
   sleep o/n after increased dose but this resolved. Currently denies
   headache, nausea, jaw pain, throat tightness. Reports mild facial
   flushing with higher dose, but this has improved
   Flowsheet Data as of  [**2197-4-28**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 83 (62 - 93) bpm
   BP: 131/55(74) {105/55(68) - 141/95(100)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.2 kg (admission): 108.7 kg
    CVP: 5 (4 - 12)mmHg
   PAP: (54 mmHg) / (24 mmHg)
   SvO2: 63%
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                    790 mL
                                                                     21 mL
   PO:
                                                                    760 mL
   TF:
   IVF:
                                                                     30 mL
                                                                     21 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                    300 mL
   Urine:
                                                                  3,025 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,235 mL
                                                                   -279 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, male in NAD.
   HEENT: Facial flushing
   Cardiovascular: RRR  S1 & S2 normal, No S3, No S4, Distant heart sounds
   Chest: CTAB, no w/r/r
   Abdominal: Soft, Non-tender, Bowel sounds present, No Distended, Obese
   Extremities: no c/c/e
   Peripheral Vascular: 2+ DP and PT bilat
   Skin:  Warm, No Rash: , No Jaundice
   Labs / Radiology
   240 K/uL
   14.2 g/dL
   125 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   26 mg/dL
   103 mEq/L
   137 mEq/L
   42.1 %
   17.8 K/uL
        [image002.jpg]
                             [**2197-4-25**]  05:53 PM
                             [**2197-4-26**]  03:50 AM
                             [**2197-4-27**]  06:24 AM
                             [**2197-4-27**]  08:12 AM
                             [**2197-4-28**]  05:20 AM
   WBC
   10.2
   10.7
   11.5
   17.8
   Hct
   38.1
   39.2
   38.3
   41
   42.1
   Plt
   297
   269
   266
   240
   Cr
   1.4
   1.4
   1.3
   Glucose
   99
   118
   125
   Other labs: PT / PTT / INR:14.4/31.9/1.2, Differential-Neuts:72.9 %,
   Lymph:18.2 %, Mono:4.4 %, Eos:3.7 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   A&P:  65M with severe pulmonary hypertension electively admitted to
   initiate Flolan therapy.
   .
   #  Pulmonary Hypertension
 Patient admitted for Flolan initiation
   which he tolerated well until 6ng/kg/min dose when he developed some
   respiratory distress likely [**1-23**] flash pulmonary edema. He also
   experienced flushing, nausea and a mild headache as well as
   lightheadedness.
   - continue home Tracleer and Sildenafil
   - continue Flolan, uptitrate by 0.5 ng/kg/min every 2-4 hours with goal
   of 8-12ng/kg/min, currently at 7ng/kg/min
   - Monitor lung exam, oxygenation closely .
   - Teaching will be provided by Accredo: 1-[**Telephone/Fax (1) 7349**] or with any
   questions you can call [**First Name8 (NamePattern2) 670**] [**Last Name (NamePattern1) 7350**], RN [**Telephone/Fax (1) 7351**]. She is a
   nurse who works for Accredo on PAH. She is very knowledgeable about
   everything about epoprostenol.
   - he does not need to be on heparin while in house because he is only
   on coumadin for PAH prophylaxis.
   - continue home lasix
   - get pt up to chair and ambulate to monitor for symptom improvement.
   - if tolerates Flolan, will go for Hickman placement today after flolan
   is initiated. [**First Name4 (NamePattern1) 4731**] [**Last Name (NamePattern1) 916**] aware
   .
   #  Hypertension
 Well-controlled currently
   - Continue home regimen of lisinopril and lasix.
   .
   #  Coronary Artery Disease - Known 75% mid LAD stenosis, mild diagonal
   disease 40% proximal circumflex stenosis and a 40-50% PDA stenosis.
   - Continue ASA
   - Tricor non-formulary
   .
   #  Diabetes Mellitus - on metformin at home. Blood sugars in 130-160
   - continue insulin sliding scale while in-house
   .
   #  Obstructive Sleep Apnea - Has home CPAP machine with him
   - continue home settings
   .
   #  COPD - On home O2, 3L at rest, 4L with exertion.
   - continue inhalers
   - oxygen supplementation to maintain O2 sats >90%
   .
   #  GERD - Continue PPI.
   .
   #  FEN
 NPO today for possible Hickman placement, possibly d/c swan,
   repletes lytes prn
   .
   #  Proph - SC Heparin, bowel regimen prn, continue PPI
   .
   #  Access - PIV, swan ganz
   .
   #  Code Status - Full Code
   .
   #  Contact - [**Last Name (LF) **], [**First Name3 (LF) 6273**], [**Telephone/Fax (1) 7352**] (cell), [**Telephone/Fax (1) 7353**] (home)

2197-04-29 06:41:00 Physician Resident Progress Note
Chief Complaint: pulm HTN
   24 Hour Events:
   - O2sat dropped to 88% with activity.  O2 increased to 5L.
   - pt's flolan decreased to 4ng/kg/min.  plan to titrate up by
   1ng/kg/min every 12 hrs.  Pulm reported that unable to assess for
   improvement in symtpoms until pt on 8ng/kg/min (possibly by Sunday).
   - d/c'ed swan as numbers not helpful.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-4-28**] 09:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-4-29**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 82 (72 - 103) bpm
   BP: 139/66(84) {106/35(58) - 146/114(118)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.2 kg (admission): 108.7 kg
    CVP: 6 (5 - 7)mmHg
   PAP: (60 mmHg) / (25 mmHg)
   PCWP: 10 (10 - 10) mmHg
                                Total In:
                                                                    678 mL
                                                                    222 mL
   PO:
                                                                    600 mL
                                                                    200 mL
   TF:
   IVF:
                                                                     78 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    600 mL
   Urine:
                                                                  1,280 mL
                                                                    600 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,052 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, male in NAD.
   HEENT: Facial flushing
   Cardiovascular: RRR  S1 & S2 normal, No S3, No S4, Distant heart sounds
   Chest: CTAB, no w/r/r
   Abdominal: Soft, Non-tender, Bowel sounds present, No Distended, Obese
   Extremities: no c/c/e
   Peripheral Vascular: 2+ DP and PT bilat
   Skin:  Warm, No Rash: , No Jaundice
   Labs / Radiology
   240 K/uL
   14.2 g/dL
   159 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.0 mEq/L
   25 mg/dL
   102 mEq/L
   138 mEq/L
   42.1 %
   17.8 K/uL
        [image002.jpg]
                             [**2197-4-25**]  05:53 PM
                             [**2197-4-26**]  03:50 AM
                             [**2197-4-27**]  06:24 AM
                             [**2197-4-27**]  08:12 AM
                             [**2197-4-28**]  05:20 AM
   WBC
   10.2
   10.7
   11.5
   17.8
   Hct
   38.1
   39.2
   38.3
   41
   42.1
   Plt
   297
   269
   266
   240
   Cr
   1.4
   1.4
   1.3
   1.3
   Glucose
   99
   118
   125
   159
   Other labs: PT / PTT / INR:14.0/29.4/1.2, Differential-Neuts:72.9 %,
   Lymph:18.2 %, Mono:4.4 %, Eos:3.7 %, Ca++:9.4 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   65M with severe pulmonary hypertension electively admitted to initiate
   Flolan therapy.
   .
   #  Pulmonary Hypertension
 Patient admitted for Flolan initiation
   which he tolerated well until 6ng/kg/min dose when he developed some
   respiratory distress likely [**1-23**] flash pulmonary edema. He also
   experienced flushing, nausea and a mild headache as well as
   lightheadedness.
   - continue home Tracleer and Sildenafil
   - continue Flolan, uptitrate by 0.5 ng/kg/min every 2-4 hours with goal
   of 8-12ng/kg/min, currently at 7ng/kg/min
   - Monitor lung exam, oxygenation closely .
   - Teaching will be provided by Accredo: 1-[**Telephone/Fax (1) 7349**] or with any
   questions you can call [**First Name8 (NamePattern2) 670**] [**Last Name (NamePattern1) 7350**], RN [**Telephone/Fax (1) 7351**]. She is a
   nurse who works for Accredo on PAH. She is very knowledgeable about
   everything about epoprostenol.
   - he does not need to be on heparin while in house because he is only
   on coumadin for PAH prophylaxis.
   - continue home lasix
   - get pt up to chair and ambulate to monitor for symptom improvement.
   - if tolerates Flolan, will go for Hickman placement today after flolan
   is initiated. [**First Name4 (NamePattern1) 4731**] [**Last Name (NamePattern1) 916**] aware
   .
   #  Hypertension
 Well-controlled currently
   - Continue home regimen of lisinopril and lasix.
   .
   #  Coronary Artery Disease - Known 75% mid LAD stenosis, mild diagonal
   disease 40% proximal circumflex stenosis and a 40-50% PDA stenosis.
   - Continue ASA
   - Tricor non-formulary
   .
   #  Diabetes Mellitus - on metformin at home. Blood sugars in 130-160
   - continue insulin sliding scale while in-house
   .
   #  Obstructive Sleep Apnea - Has home CPAP machine with him
   - continue home settings
   .
   #  COPD - On home O2, 3L at rest, 4L with exertion.
   - continue inhalers
   - oxygen supplementation to maintain O2 sats >90%
   .
   #  GERD - Continue PPI.
   .
   #  FEN
 NPO today for possible Hickman placement, possibly d/c swan,
   repletes lytes prn
   .
   #  Proph - SC Heparin, bowel regimen prn, continue PPI
   .
   #  Access - PIV, swan ganz
   .
   #  Code Status - Full Code
   .
   #  Contact - [**Last Name (LF) **], [**First Name3 (LF) 6273**], [**Telephone/Fax (1) 7352**] (cell), [**Telephone/Fax (1) 7353**] (home)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2197-4-26**] 08:59 AM
   22 Gauge - [**2197-4-27**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-04-30 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -flolan incr. to 5 ng/kg/min but worsening dyspnea, O2 requirement
   (4->6.5L), gave 20 mg IV lasix; pulm fellow spoke w/ patient and
   decision made to stop flolan titration
   -decr. from 5-3-1-off
   -changed insulin SS to home dose metformin
   -emailed [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] that won't need hickman anymore
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-4-29**] 04:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: States that breathing feels at baseline. No
   complaints
   Flowsheet Data as of  [**2197-4-30**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 83 (82 - 122) bpm
   BP: 83/62(66) {83/37(52) - 129/85(88)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.2 kg (admission): 108.7 kg
                  Total In:
                                                                    983 mL
                                                                    240 mL
   PO:
                                                                    920 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                      0 mL
   Urine:
                                                                  1,625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -642 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 97%
   ABG: ////
   Physical Examination
   GEN: Well-appearing, no e/o facial flushing, CPAP mask in place
   CV: reg rate nl S1S2 no m/r/g
   PULM: CTAB, no w/r/r
   ABD: soft NTND normoactive BS
   EXT: warm, dry +PP no edema
   Labs / Radiology
   229 K/uL
   12.3 g/dL
   140 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.1 mEq/L
   24 mg/dL
   103 mEq/L
   140 mEq/L
   35.4 %
   12.0 K/uL
                             [**2197-4-25**]  05:53 PM
                             [**2197-4-26**]  03:50 AM
                             [**2197-4-27**]  06:24 AM
                             [**2197-4-27**]  08:12 AM
                             [**2197-4-28**]  05:20 AM
                             [**2197-4-29**]  06:20 AM
                             [**2197-4-30**]  06:08 AM
   WBC
   10.2
   10.7
   11.5
   17.8
   12.3
   12.0
   Hct
   38.1
   39.2
   38.3
   41
   42.1
   40.1
   35.4
   Plt
   297
   269
   266
   [**Telephone/Fax (3) 7458**]
   Cr
   1.4
   1.4
   1.3
   1.3
   1.2
   Glucose
   99
   118
   125
   159
   140
   Other labs: PT / PTT / INR:14.0/29.4/1.2, Differential-Neuts:72.9 %,
   Lymph:18.2 %, Mono:4.4 %, Eos:3.7 %, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   65M with severe pulmonary hypertension, CAD, DM, COPD on home O2, HTN
   admitted for initiation of Flolan therapy.
   .
   # Pulm HTN
 patient developed flash pulmonary edema with worsening
   oxygen requirement yesterday therefore decision was made to discontinue
   Flolan trial and downtitrate medication. Flolan currently off
   -continue tracleer and sildenafil
   -outpatient pulmonary f/u
   .
   #  Hypertension
 Well-controlled currently with SBP
s in 100-110
   - Continue home regimen of lisinopril and lasix.
   .
   #  Coronary Artery Disease - Known 75% mid LAD stenosis, mild diagonal
   disease 40% proximal circumflex stenosis and a 40-50% PDA stenosis.
   -cont ASA, tricor
   .
   #DM
 sugars well-controlled
   -continue metformin at home dose
   .
   #OSA
   -continue home CPAP settings
   .
   # COPD - On home O2, 3L at rest, 4L with exertion
   -cont O2 to maintain sats >90%
   .
   # GERD
   -cont PPI
   .
   #F/E/N
low Na/HH/DM diet; repletes lytes prn
   .
   #PPx
 SQH, PPI bowel regimen
   .
   #  Access - PIV
   .
   #  Code Status - Full Code
   .
   #  Contact - [**Last Name (LF) **], [**First Name3 (LF) 6273**], [**Telephone/Fax (1) 7352**] (cell), [**Telephone/Fax (1) 7353**] (home)
   .
   # Dispo
 dc home today after dc Cordis
   ------ Protected Section ------
   I have reviewed the daily progress note by Dr. [**Last Name (STitle) 7163**] on [**2197-4-30**]
   and I agree with the documentation of the events over the past 24
   hours.  I also concur with the noted physical examination and was
   present during the assessment of its components.  The assessment and
   treatment plan as outlined above accurately reflect our plans for
   therapy over the next 24 hours.   Mr. [**Known lastname 7348**] was not able to tolerate
   Flolan therapy due to the development of pulmonary edema and systemic
   sides effects.  He has complained of a mild tingling in his fingers
   this morning but no additional associated symptoms.  He is otherwise
   back at his baseline.   We will move toward hospital discharge today
   and followup with our pulmonary consultants.  [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**], MD
   [**Telephone/Fax (1) 7286**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2197-4-30**] 12:12 ------